US08461134B2
4-Amino-2-(2-hydrazinyl-2-oxoethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide
To a stirred solution of 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid (23.6 mg, 0.066 mmol) and hydrazine (6.3 uL, 0.13 mmol) in 1 mL of DMF were added PyBOP (69 mg, 0.13 mmol) and triethylamine (31 uL, 0.22 mmol). The reaction mixture was stirred at room temperature for 1 hour. The crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a white solid (5.0 mg, yield 16%). MS calcd for (C15H17BN4O5S): 376.1. MS found (ESI negative): (M−H)−=375.1. 1H NMR (DMSO-d6) δ (ppm): 10.4 (bs, 1H), 9.74 (s, 1H), 9.11 (bs, 1H), 7.38 (d, J=8.0 Hz, 1H), 7.36 (s, 1H), 7.17 (d, J=8.0 Hz, 1H), 7.06 (d, J=8.0 Hz, 1H), 6.34 (m, 2H), 5.89 (bs, 2H), 4.81 (s, 2H), 3.76 (s, 2H).

reactant | 2-(5-amino-2-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)acetic acid | 0.066 mmol, 23.6 mg | NC=1C=CC(=C(C1)CC(=O)O)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O | C15H15BN2O6S
reactant | hydrazine | 0.13 mmol, 6.3 uL | NN | H4N2
reactant | PyBOP | 0.13 mmol, 69 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.22 mmol, 31 uL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-Amino-2-(2-hydrazinyl-2-oxoethyl)-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 5.0 mg, yield 16% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC(=O)NN | C15H17BN4O5S
